US05883255
(±)-8-Methyl-7-[1-[(pyridinioacetyl)oxy]propyl]indolizino[1.2-b]quinolin-9(11H)-one iodide
The title compound was prepared according to the procedure in Example 13 except using (±)-7-[1-[(iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one and pyridine. 1H NMR (CDCl3 /MeOH-d4) d 9.09 (d, J=5.5 Hz, 2H), 8.65 (t, J=7.9 Hz, 1H), 8.51 (s, 1H), 8.17 (m, 3H), 7.99 (d, J=8.1 Hz, 1H). 7.89 (m, 1H), 7.70 (m, 1H), 7.50 (s, 1H), 6.05 (d, J=17.2 Hz, 1H), 6.02 (m, 1H).5.87 (d, J=17.2 Hz, 1H), 5.30 (s, 2H), 2.31 (s, 3H), 2.18-1.94 (m, 2H), 1.09 (t, J=7.4 Hz, 3H). Anal. Calcd for C26H24IN3O3.1/4 H2O: C, 55.97; H, 4.43; N, 7.53. Found: C, 55.72; H, 4.30; N, 7.26.

reactant | (±)-7-[1-[(iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | ICC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C21H19IN2O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
product | (±)-8-Methyl-7-[1-[(pyridinioacetyl)oxy]propyl]indolizino[1.2-b]quinolin-9(11H)-one iodide | [I-].CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)OC(C[N+]1=CC=CC=C1)=O)=O | InChI=1S/C26H24N3O3.HI/c1-3-23(32-24(30)16-28-11-7-4-8-12-28)20-14-22-25-19(15-29(22)26(31)17(20)2)13-18-9-5-6-10-21(18)27-25;/h4-14,23H,3,15-16H2,1-2H3;1H/q+1;/p-1
